US08614327B2
To a solution of N-(2,4-di-tert-butyl-5-hydroxy-phenyl)-7-methoxy-4-oxo-1H-quinoline-3-carboxamide (120 mg, 0.28 mmol) in DCM (1.5 mL) was added BBr3 (1.5 mL, 15.23 mmol) dropwise at −78° C. After the addition was complete the cooling bath was removed and the resulting reaction mixture was warmed to room temperature and stirred overnight. The reaction mixture was quenched with sat. solution of NaHCO3. The aqueous layer was extracted with DCM and the combined organic layer was dried over MgSO4, filtered and concentrated. The residue was purified via reverse phase HPLC to give N-(2,4-ditert-butyl-5-hydroxy-phenyl)-7-hydroxy-4-oxo-1H-quinoline-3-carboxamide. LC/MS: m/z 409.5 (M+H)+ at 1.83 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | N-(2,4-di-tert-butyl-5-hydroxy-phenyl)-7-methoxy-4-oxo-1H-quinoline-3-carboxamide | 0.28 mmol, 120 mg | C(C)(C)(C)C1=C(C=C(C(=C1)C(C)(C)C)O)NC(=O)C1=CNC2=CC(=CC=C2C1=O)OC | C25H30N2O4
reactant | BBr3 | 15.23 mmol, 1.5 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | N-(2,4-ditert-butyl-5-hydroxy-phenyl)-7-hydroxy-4-oxo-1H-quinoline-3-carboxamide | C(C)(C)(C)C1=C(C=C(C(=C1)C(C)(C)C)O)NC(=O)C1=CNC2=CC(=CC=C2C1=O)O | C24H28N2O4
